US09302988B2
Step 4: [3-(4-Chlorophenyl)-1-[(3-chlorophenyl)-methyl]-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-morpholin-4-yl-methanone (SC-25)
(3-(4-Chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone (80 mg, 0.215 mmol) was dissolved in dry MeCN (5 mL). The solution was mixed with K2CO3 (59 mg, 0.429 mmol), followed by addition of 3-chlorobenzyl bromide (31 μL, 0.236 mmol). The reaction mixture was stirred vigorously at 80° C. overnight. The temperature was lowered to room temperature; the reaction mixture was combined with a few lumps of ice, Et2O (50 mL) and H2O (10 mL) to result in a clear two phase system. The phases were separated; the organic phase was washed with brine. Drying (Na2SO4) was followed by concentration in vacuo. The residue was dissolved in MeCN (30 mL), concentrated in vacuo and used for preparative TLC (silica, heptane/EtOAc, 5:1), providing 96 mg (90%) of SC-25 as a fluffy white solid.

reactant | (3-(4-Chlorophenyl)-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl)(morpholino)methanone | 0.215 mmol, 80 mg | ClC1=CC=C(C=C1)C1=C(NC(=C1C)C(F)(F)F)C(=O)N1CCOCC1 | C17H16ClF3N2O2
reactant | K2CO3 | 0.429 mmol, 59 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chlorobenzyl bromide | 0.236 mmol, 31 μL | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | MeCN | 5 mL | CC#N | C2H3N
solvent | H2O | 10 mL | O | H2O
product | [3-(4-Chlorophenyl)-1-[(3-chlorophenyl)-methyl]-4-methyl-5-(trifluoromethyl)-1H-pyrrol-2-yl]-morpholin-4-yl-methanone | ClC1=CC=C(C=C1)C1=C(N(C(=C1C)C(F)(F)F)CC1=CC(=CC=C1)Cl)C(=O)N1CCOCC1 | C24H21Cl2F3N2O2
